US04166178
In acetonitrile (14 ml) is dissolved 7β-phenylacetamido-3-hydroxymethyl-3-cephem-4-carboxylic acid triethylamine salt (900 mg), followed by the addition of triethylamine (200 mg), 5-mercapto-1-methyl-1H-tetrazole (464 mg) and N-(methylcarbamoyl)isatin (916 mg). The mixture is stirred at 30° C. overnight. The solvent is then distilled off and the residue is dissolved by the addition of water and ethyl acetate. After separation, the water layer is taken, rinsed once with ethyl acetate and rendered acidic with hydrochloric acid. Following the addition of ethyl acetate, the mixture is stirred for 30 minutes. After separation, the organic layer is taken and rinsed with an aqueous solution of sodium chloride. It is extracted with an aqueous solution of sodium hydrogen carbonate. The water layer is purified by column chromatography on Sephadex LH-20. The fractions rich in the contemplated compound are pooled, concentrated, rendered acidic with phosphoric acid and extracted with ethyl acetate. After drying, the extract is concentrated, followed by addition of ether to the residue. The procedure provides 7β-phenylacetamido-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid. The NMR spectrum of this product is in good agreement with that of the compound obtained in Example 6.

reactant | 7β-phenylacetamido-3-hydroxymethyl-3-cephem-4-carboxylic acid triethylamine salt | 900 mg | C(C)N(CC)CC.C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O
reactant | triethylamine | 200 mg | C(C)N(CC)CC | C6H15N
reactant | 5-mercapto-1-methyl-1H-tetrazole | 464 mg | SC1=NN=NN1C | C2H4N4S
reactant | N-(methylcarbamoyl)isatin | 916 mg | CNC(=O)N1C(=O)C(=O)C2=CC=CC=C12 | C10H8N2O3
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
product | 7β-phenylacetamido-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C18H18N6O4S2
